US06953790B2
Step C: tert-Butyl 7-oxo-1-(2,2,2-trifluoroethyl)-1,4-diazepan-6-ylcarbamate
10% Palladium on carbon (77 mg) was added to a solution of benzyl 6-[(tert-butoxycarbonyl)amino]-5-oxo-4-(2,2,2-trifluoroethyl)-1,4-diazepane-1-carboxylate (590 mg, 1.32 mmol) in ethanol (20 mL). The reaction vessel was evacuated and back-filled with nitrogen (3×), then back-filled with hydrogen (1 atm). After 18 h, the mixture was filtered and concentrated to give the title compound (420 mg). MS 312 (M+1). 1H NMR (500 MHz, CDCl3) δ 5.83 (s, 1H), 4.53-4.49 (m, 1H), 4.29-4.20 (m, 1H), 3.96-3.88 (m, 1H), 3.81-3.77 (m, 1H), 3.38 (d, J=15.6 Hz, 1H), 3.26 (d, J=12.9 Hz, 1H), 3.16-3.13 (m, 1H), 2.81-2.79 (m, 1H), 2.72-2.67 (m, 1H), 1.83 (br s, 1H), 1.45 (s, 9H).

reactant | benzyl 6-[(tert-butoxycarbonyl)amino]-5-oxo-4-(2,2,2-trifluoroethyl)-1,4-diazepane-1-carboxylate | 1.32 mmol, 590 mg | C(C)(C)(C)OC(=O)NC1C(N(CCN(C1)C(=O)OCC1=CC=CC=C1)CC(F)(F)F)=O | C20H26F3N3O5
catalyst | Palladium on carbon | 77 mg | [Pd] | Pd
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | tert-Butyl 7-oxo-1-(2,2,2-trifluoroethyl)-1,4-diazepan-6-ylcarbamate | 420 mg | O=C1C(CNCCN1CC(F)(F)F)NC(OC(C)(C)C)=O | C12H20F3N3O3
